US07550474B2
c. 2-(tert-butoxycarbonylamino)ethoxy-N-methylamine
A mixture of [2-(N-Methyl-N-methoxycarbonyl-aminooxy)-ethyl]-carbamic acid tert-butyl ester (630 mg, 2.54 mmol), as prepared in the previous step, KOH (439 mg, 6.65 mmol, 15% water), D2O (2.0 mL) was stirred at 90° C. for 18 h. The mixture was allowed to cool to room temperature (a bilayer formed), and extracted with DCM (2×10 mL). The organic layers were combined, dried (2×Na2SO4), and concentrated to give 408 mg of the title compound (contaminated with 10 mol % starting material) as a nearly colorless oil (2.15 mmol, 85% yield). 1H NMR (300 Hz, CDCl3) δ 3.72 (t, J=4.9 Hz, 2H), 3.33 (br t, J=4.7 Hz, 2H), 2.70 (s, 3H), 1.45 (s, 9H).

reactant | [2-(N-Methyl-N-methoxycarbonyl-aminooxy)-ethyl]-carbamic acid tert-butyl ester | 2.54 mmol, 630 mg | C(C)(C)(C)OC(NCCON(C(=O)OC)C)=O | C10H20N2O5
reactant | KOH | 6.65 mmol, 439 mg | [OH-].[K+]
product | 2-(tert-butoxycarbonylamino)ethoxy-N-methylamine | 408 mg | C(C)(C)(C)OC(=O)NCCONC | C8H18N2O3
